US07078438B2
Step C: Preparation of 3,4-difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}-N-(2-hydroxyethoxy)benzamide
The title compound was prepared from reaction of 3,4-difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}benzoic acid with CDI and 2-(aminooxy)ethanol by the general procedure of Example 1, Step E, then purified by column chromatography on silica gel (50% EtOAc/PE) as eluant), to give 3,4-difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}-N-(2-hydroxyethoxy)benzamide as a white solid (69%) which was used directly in the next step. 1H NMR [400 MHz, (CD3)2SO] δ 11.80 (br s, 1 H), 8.87 (br s, 1 H), 7.46–7.39 (m, 1 H), 7.31 (dd, J=12.2, 1.8 Hz, 1 H), 7.28–7.20 (m, 1 H), 7.14 (dd, J=8.3, 1.6 Hz, 1 H), 6.79 (ddd, J=8.8, 8.8, 4.7 Hz, 1H), 4.80 (br s, 1H), 4.46 (d, J=16.1 Hz, 1H), 4.36 (d, J=16.0 Hz, 1 H), 3.84 (t, J=4.8 Hz, 2 H), 3.75 (ddd, J=11.5, 8.6, 3.3 Hz, 2 H), 3.55 (t, J=4.8 Hz, 2 H), 3.51–3.44 (m, 2 H), 1.76–1.60 (m, 2 H), 1.55–1.42 (m, 4 H). HRMS (EI+) calcd. for C23H23F3N2O5 464.1559 (M+), found 464.1558.

reactant | 3,4-difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C#CCOC1OCCCC1)F | C21H18F3NO4
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(aminooxy)ethanol | NOCCO | C2H7NO2
product | 3,4-difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}-N-(2-hydroxyethoxy)benzamide | 69% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CCOC1OCCCC1)F | C23H23F3N2O5
